US08685965B2
Step A. 4-{[2-(Trimethylsilyl)ethoxy]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one
Sodium hydride (60% dispersion in mineral oil; 0.48 g, 12 mmol) is added in portions to a solution of 2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one (1.50 g, 10 mmol) in DMF (20 mL) at 0° C. and the mixture is stirred for 1 h. 2-(Trimethylsilyl)ethoxymethylchloride (2.1 mL, 12 mmol) is added slowly dropwise and the mixture is then stirred at rt for 1 h. The reaction is quenched by pouring into ice-water and the mixture is then extracted with CH2Cl2 (×3). The combined organic extracts are washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product is purified by silica gel chromatography (gradient elution with hexanes-EtOAc) to afford the title compound.

reactant | Sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | 2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one | 10 mmol, 1.50 g | O1C2=C(NC(C1)=O)N=CC=C2 | C7H6N2O2
reactant | 2-(Trimethylsilyl)ethoxymethylchloride | 12 mmol, 2.1 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-{[2-(Trimethylsilyl)ethoxy]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one | C[Si](CCOCN1C2=C(OCC1=O)C=CC=N2)(C)C | C13H20N2O3Si
